US08735584B2
Methyl 1-chloro-6-oxo-5,6-dihydrobenzo[c][1,8]naphthyridine-8-carboxylate (266)
The title compound was synthesized according to the procedure described for the preparation of Example 1 using 4-chloro-3-iodopyridin-2-amine (510 mg, 2.0 mmol) and dimethyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)isophthalate (705 mg, 2.2 mmol) to provide 266 (280 mg, 48% yield) as a white solid. LC-MS (M+H=289, obsd.=289).

reactant | 4-chloro-3-iodopyridin-2-amine | 2.0 mmol, 510 mg | ClC1=C(C(=NC=C1)N)I | C5H4ClIN2
reactant | dimethyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)isophthalate | 2.2 mmol, 705 mg | CC1(OB(OC1(C)C)C1=C(C=C(C(=O)OC)C=C1)C(=O)OC)C | C16H21BO6
product | Methyl 1-chloro-6-oxo-5,6-dihydrobenzo[c][1,8]naphthyridine-8-carboxylate | 280 mg, 48% yield | ClC1=C2C3=C(C(NC2=NC=C1)=O)C=C(C=C3)C(=O)OC | C14H9ClN2O3
